US06531502B1
N-[3-(5-Isopropyl-4-methoxy-2-methylbenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-acetamide
A mixture of 5-isopropyl-4-methoxy-2-methylbenzaldehyde (0.25 g, 1.3 mmol), 6-acetamido-2-oxindole (0.25 g, 1.3 mmol) and pyrrolidine (0.54 ml, 6.5 mmol) in ethanol (4 ml) was held in a sealed tube at 100° C. for 12 hours. The reaction was cooled and then poured into water (100 ml). The solid which formed was removed by filtration, washed with water and then dissolved in ethyl acetate (200 ml). The ethyl acetate solution was dried over magnesium sulfate and concentrated. The resulting solid was triturated with dichloromethane/hexanes to .afford 0.33 g (70%) of N-[3-(5-isopropyl-4-methoxy-2-methylbenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-acetamide as a brownish yellow solid.

reactant | 5-isopropyl-4-methoxy-2-methylbenzaldehyde | 1.3 mmol, 0.25 g | C(C)(C)C=1C(=CC(=C(C=O)C1)C)OC | C12H16O2
reactant | 6-acetamido-2-oxindole | 1.3 mmol, 0.25 g | C(C)(=O)NC1=CC=C2CC(NC2=C1)=O | C10H10N2O2
reactant | pyrrolidine | 6.5 mmol, 0.54 ml | N1CCCC1 | C4H9N
reactant | water | 100 ml | O | H2O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-[3-(5-Isopropyl-4-methoxy-2-methylbenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-acetamide | C(C)(C)C=1C(=CC(=C(C=C2C(NC3=CC(=CC=C23)NC(C)=O)=O)C1)C)OC | C22H24N2O3
